US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-ethoxy-5-(N-methylpiperidin-4-yloxy)quinazoline
A solution of di-tert-butyl azodicarboxylate (0.26 g) in methylene chloride (1 ml) was added dropwise to a stirred mixture of 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-(N-methylpiperidin-4-yloxy)quinazoline (0.12 g), ethanol (0.019 g), triphenylphosphine (0.15 g) and methylene chloride (2 ml) and the resultant mixture was stirred at ambient temperature for 1 hour. A 2M solution of hydrogen chloride in diethyl ether (3 ml) was added and the mixture was stirred at ambient temperature for 1.5 hours. Diethyl ether (1 ml) was added and the precipitate was isolated and dried under vacuum. The solid so obtained was dissolved in a 9:1 mixture of methylene chloride and a saturated methanolic ammonia solution. The mixture was filtered and the filtrate was evaporated. The residue was triturated under pentane and the resultant solid was isolated and dried under vacuum. There was thus obtained the title compound (0.092 g); NMR Spectrum: (CDCl3) 1.5 (t, 3H), 1.95–2.1 (m, 2H), 2.15–2.5 (m, 2H), 2.3 (s, 3H), 2.3–2.4 (m, 2H), 2.7 (br s, 2H), 4.15 (m, 2H), 4.6 (m, 1H), 6.05 (s, 2H), 6.5 (d, 1H), 6.7 (d, 1H), 6.8 (d, 1H), 6.95 (d, 1H), 8.5 (s, 1H), 9.25 (br s, 1H); Mass Spectrum: M+H+ 457 and 459.

reactant | di-tert-butyl azodicarboxylate | 0.26 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-7-hydroxy-5-(N-methylpiperidin-4-yloxy)quinazoline | 0.12 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCN(CC1)C)O)OCO2 | C21H21ClN4O4
reactant | triphenylphosphine | 0.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrogen chloride | Cl | ClH
reactant | ammonia | N | H3N
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | Diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 0.019 g | C(C)O | C2H6O
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-ethoxy-5-(N-methylpiperidin-4-yloxy)quinazoline | 0.092 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCN(CC1)C)OCC)OCO2 | C23H25ClN4O4
